US08124606B2
Compound 65C: 3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one:
Methyl 6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazine-3-carboxylate (500 mg, 1.91 mmol) was taken up in tetrahydrofuran (23 mL) in an inert environment. To the stirred suspension at room temperature was added NaH (60% dispersion in mineral oil, 114.7 mg, 2.87 mmol) and stirred 30 min. The reaction was then cooled to −45° C. and lithium aluminum hydride (2M in THF, 1.91 mL, 3.82 mmol) was added. The reaction was stirred at a temperature between −20 and −10° C. for 1 h. The reaction was then cooled back to −60° C. and MeOH (1 mL) followed by water (1 mL) was added. The reaction was allowed to stir at ambient temperature for 2 h and then poured into ethyl acetate (300 mL) and water (200 mL). The biphasic mixture was stirred vigorously and then filtered through a medium frit. The layers were separated and the aqueous phase was extracted with ethyl acetate (3×100 mL). The organic layers were combined, washed with brine (100 mL), dried with sodium sulfate and concentrated to yield the title compound (429.4 mg, 96%) as a white solid. [M+H] calc'd for C12H15N3O2, 234. found, 234.

reactant | Methyl 6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazine-3-carboxylate | 1.91 mmol, 500 mg | O=C1C2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCCC2 | C13H15N3O3
reactant | NaH | 2.87 mmol, 114.7 mg | [H-].[Na+]
reactant | lithium aluminum hydride | 3.82 mmol, 2M, 1.91 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | MeOH | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
product | 3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 429.4 mg, 96% | OCC1=CC=2NC(C3N(C2N=C1)CCCC3)=O | C12H15N3O2
